US07910613B2
N-[5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide
2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine (1.5 g, 6.4 mmol) was dissolved in dry THF (50 mL). Ethyl-diisopropyl-amine (2.5 mL) and propionylchloride (2.8 mL, 5 eq) was added. The reaction mixture was stirred overnight at room temperature. pH was adjusted to pH ˜2 by addition of HCl in ethanol. The reaction mixture was stirred overnight at room temperature. The solvent was evaporated to yield a yellow oil. The crude product was purified by flash column chromatography, eluted with 30% ethyl acetate in hexanes to give the product as a white solid. Yield: 49%.

reactant | 2-Amino-N-hydroxy-4-phenyl-thiazole-5-carboxamidine | 6.4 mmol, 1.5 g | NC=1SC(=C(N1)C1=CC=CC=C1)C(=N)NO | C10H10N4OS
reactant | Ethyl-diisopropyl-amine | 2.5 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propionylchloride | 2.8 mL, 5 eq | C(CC)(=O)Cl | C3H5ClO
reactant | HCl | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | N-[5-(5-Ethyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide | Yield: 49% | C(C)C1=NC(=NO1)C1=C(N=C(S1)NC(CC)=O)C1=CC=CC=C1 | C16H16N4O2S
